US05135937
8 g of 5-bromomethylthiophene-2-carbonitrile (prepared by brominating 5.7 g of 5-methylthiophene-2-carbonitrile and 8.42 g of N-bromosuccinimide in 68 ml of carbon tetrachloride under exposure to light and with the addition of 185 mg of benzoyl peroxide) is refluxed for 30 minutes in 35 ml of chloroform with 5.6 g of hexamethylenetetramine. The precipitated salt is suctioned off and refluxed in 30 ml of acetic acid and 30 ml of water for 2 hours. After extraction with ether, washing of the ether phase with water, drying, and evaporation, 2.43 g of 5-cyanothiophene-2-aldehyde is obtained.

reactant | 5-bromomethylthiophene-2-carbonitrile | 8 g | BrCC1=CC=C(S1)C#N | C6H4BrNS
reactant | 5-methylthiophene-2-carbonitrile | 5.7 g | CC1=CC=C(S1)C#N | C6H5NS
reactant | N-bromosuccinimide | 8.42 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | hexamethylenetetramine | 5.6 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
solvent | carbon tetrachloride | 68 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | chloroform | 35 ml | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
catalyst | benzoyl peroxide | 185 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | water | 30 ml | O | H2O
product | 5-cyanothiophene-2-aldehyde | 2.43 g | C(#N)C1=CC=C(S1)C=O | C6H3NOS
